US07652022B2
4-(4-Amino-phenoxy)-pyridine-2-carbonitrile:
4-Amino-phenol (2.54 g, 22.8 mmol, 1.1 equiv) is added in one portion to a suspension of NaH (60% free-flowing powder moistened with oil, 1.25 g, 31.2 mmol, 1.5 equiv) in dioxane abs. (30 mL), under an argon atmosphere. When hydrogen evolution subsides, 4-nitro-pyridine N-oxide (3 g, 20.8 mmol) is added in one portion. The resulting dark mixture is heated to 100° C. (oil bath temperature) for 22 h and then allowed to cool to rt. Me3SiCN (3.5 mL, 27.0 mmol, 1.3 equiv) is added. After 5 min, the reaction mixture is cooled with a 10° C. water bath and N,N-dimethylcarbamoyl chloride (2.5 mL, 27.0 mmol, 1.3 equiv) Is added dropwise. The reaction mixture is allowed to warm to rt. When the reaction becomes exothermic, the water bath (10° C.) is applied for a few minutes. The reaction mixture is allowed to warm to rt, stirred for 1 h, quenched by addition of MeOH (30 mL), and concentrated in vacuo. After addition of CH2Cl2 to the residue, the resulting suspension is filtered through a glass sintered funnel (washing with copious amount of the same solvent). The filtrate is concentrated in vacuo and the residue is purified by silica gel (200 g) column chromatography (CH2Cl2/Et2O, 90/10) to afford the title compound as a brownish solid: ES-MS: 211.9 [M+H]+; single peak at tR=4.86 min (System 2); Rf=0.44 (CH2Cl2/Et2O, 80/20).

reactant | 4-Amino-phenol | 22.8 mmol, 2.54 g, 1.1 equiv | NC1=CC=C(C=C1)O | C6H7NO
reactant | NaH | 31.2 mmol, 1.25 g, 1.5 equiv | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-nitro-pyridine N-oxide | 20.8 mmol, 3 g | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
reactant | Me3SiCN | 27.0 mmol, 3.5 mL, 1.3 equiv | [Si](C)(C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 27.0 mmol, 2.5 mL, 1.3 equiv | CN(C(=O)Cl)C | C3H6ClNO
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-(4-Amino-phenoxy)-pyridine-2-carbonitrile | NC1=CC=C(OC2=CC(=NC=C2)C#N)C=C1 | C12H9N3O
